US08232404B2
Preparation of isopropyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
To a solution of tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate (53 mg, 0.118 mmol) in CH2Cl2 (1.0 mL) was added TFA (0.5 mL) dropwise. The reaction mixture was stirred for 1 h and evaporated under reduced pressure. The residue was then dissolved in CH2Cl2 (1.5 mL) followed by addition of Et3N (82 μL, 0.59 mmol) and isopropyl chloroformate (0.295 mL, 0.295 mmol, Aldrich). The resulting mixture was stirred at room temperature for 30 min, quenched with H2O (0.2 mL) and then evaporated to dryness. The crude product was purified by preparative HPLC (C18 column; 10-100% methanol in water containing 0.05% trifluoroacetic acid) to give Example 3 (44.5 mg, white solid, 87%) upon lyophilization. 1H NMR (500 MHz, CDCl3) δ 8.09 (d, J=8.80 Hz, 2 H), 7.61 (d, J=8.25 Hz, 2 H), 7.30 (d, J=7.70 Hz, 1 H), 6.28 (d, J=2.20 Hz, 1H), 6.19 (dd, J=7.70, 2.20 Hz, 1 H), 4.86-5.00 (m, 1 H), 4.51-4.63 (m, 1 H), 3.77 (app brs, 2 H), 3.33-3.44 (m, 2 H), 3.11 (s, 3 H), 1.96-2.11 (m, 2 H), 1.73-1.86 (m, J=7.15 Hz, 2 H), 1.26 (d, J=6.05 Hz, 6 H). MS (ESI) 435 (M+H).

reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 0.118 mmol, 53 mg | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3N | 0.59 mmol, 82 μL | CCN(CC)CC | C6H15N
reactant | isopropyl chloroformate | 0.295 mmol, 0.295 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | isopropyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)C)=O | C21H26N2O6S
